US05604213
17-(3-Pyridyl)estra-1,3,5[10],16-tetraen-3-ol
The method followed that described in Example 2, but using 3-acetoxy-17-(3-pyridyl)estra-1,3,5[10],16-tetraene (2.36 g, 6.3 mmol), methanol (40 ml), aqueous sodium hydroxide (10% w/v, 5 ml), and the mixture was heated at 80° C. for 10 min. Chromatography, on elution with toluene-methanol (8:1), afforded the title compound (1.40 g, 67%) which crystallised from toluene, m.p. 256°-258° C.: 1H-NMR(DMSO) inter alia δ1.01(3H,s,18-CH3), 6.15(1H,m,16-H), 6.47(1H,m,ArH), 6.52(1H,m,ArH), 7.04(1H,m,ArH), 7.35(1H,m,Py 5-H), 7.79(1H,m,Py 4-H), 8.45(1H,m,Py 6-H), 8.62(1H,m,Py 2-H). Anal. Calcd: C, 83.34; H, 7.60; N, 4.23. Found: C, 83.39; H, 7.78; N, 4.06%.

reactant | 3-acetoxy-17-(3-pyridyl)estra-1,3,5[10],16-tetraene | 6.3 mmol, 2.36 g | C(C)(=O)OC1=CC=2CC[C@H]3[C@@H]4CC=C([C@@]4(C)CC[C@@H]3C2C=C1)C=1C=NC=CC1 | C25H27NO2
reactant | sodium hydroxide | 5 ml | [OH-].[Na+]
solvent | methanol | 40 ml | CO | CH4O
product | 17-(3-Pyridyl)estra-1,3,5[10],16-tetraen-3-ol | 1.40 g, 67% | N1=CC(=CC=C1)C=1[C@]2(C)[C@@H](CC1)[C@@H]1CCC=3C=C(C=CC3[C@H]1CC2)O | C23H25NO
